US04851526
1-[4-[1-Methyl-3-(morpholin-4-yl)propoxy]phenyl]-1H-imidazole
A mixture of 25.4 g (0.1 mol) of 4-[1-methyl-3-(morpholin-4-yl)propoxy]benzenamine, 6.8 g of 25% aqueous ammonia, and 10 mL of 2-propanol, and a mixture of 5.8 (0.1 mol) of glyoxal and 7.5 (0.1 mol) of 40% aqueous formaldehyde are simultaneously added into 20 mL of 1-propanol in the course of 30 minutes at 80° C. Monitor the reaction by thin-layer chromatography. Upon completion remove the solvent in vacuo to obtain the title compound.

reactant | 4-[1-methyl-3-(morpholin-4-yl)propoxy]benzenamine | 0.1 mol, 25.4 g | CC(CCN1CCOCC1)OC1=CC=C(C=C1)N | C14H22N2O2
reactant | ammonia | 6.8 g | N | H3N
reactant | glyoxal | C(=O)C=O | C2H2O2
reactant | formaldehyde | C=O | CH2O
solvent | 1-propanol | 20 mL | C(CC)O | C3H8O
solvent | 2-propanol | 10 mL | CC(C)O | C3H8O
product | 1-[4-[1-Methyl-3-(morpholin-4-yl)propoxy]phenyl]-1H-imidazole | CC(CCN1CCOCC1)OC1=CC=C(C=C1)N1C=NC=C1 | C17H23N3O2
